US04734418
2-Piperazino-6,7-dimethoxyquinazoline
Refluxed for 2 hours in isoamyl alcohol (15 ml) were 0.63 g of 2-chloro-6,7-dimethoxyquinazoline (synthesized by the method described in Japanese Patent Laid-Open No. 36390/1972) and 0.72 g of anhydrous piperazine. Isoamyl alcohol was thereafter distilled off under reduced pressure, followed by extraction with 2N--NaOH and chloroform. The chloroform layer was washed with saturated saline and then dried with anhydrous magnesium sulfate. Chloroform was distilled off under reduced pressure to obtain 0.7 g of the intended product (yield: 91%).

reactant | 2-chloro-6,7-dimethoxyquinazoline | 0.63 g | ClC1=NC2=CC(=C(C=C2C=N1)OC)OC | C10H9ClN2O2
reactant | piperazine | 0.72 g | N1CCNCC1 | C4H10N2
solvent | isoamyl alcohol | 15 ml | C(CC(C)C)O | C5H12O
product | 2-Piperazino-6,7-dimethoxyquinazoline | 0.7 g, yield: 91% | N1(CCNCC1)C1=NC2=CC(=C(C=C2C=N1)OC)OC | C14H18N4O2
